US09353081B2
{2-[5-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-3,4-dihydro-2H-[1,7]naphthyridin-1-yl]-ethyl}-carbamic acid tert-butyl ester
To a solution of 1-methyl-6-(1,2,3,4-tetrahydro-1,7-naphthyridin-5-yl)-3,4-dihydroquinolin-2(1H)-one (intermediate A-5, 0.1 g, 0.341 mmol) in DCE (3 mL)/THF (1.5 mL) were added tert-butyl 2-oxoethylcarbamate (0.081 g, 0.511 mmol), acetic acid (0.02 g, 0.341 mmol) and the reaction mixture was stirred at room temperature for 10 min. Then, sodium triacetoxyborohydride (0.144 g, 0.682 mmol) was added and stirring was continued at room temperature over night. Then, the mixture was diluted with DCM, poured into aq NaHCO3 and extracted with DCM (2×25 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by reverse phase HPLC on a Gemini-NX column, eluting with a 20 to 98% MeOH—H2O (0.05% TEA) gradient to give the title compound (0.036 g, 24%) as a white foam. MS: 437.2 (M+H+).

reactant | 1-methyl-6-(1,2,3,4-tetrahydro-1,7-naphthyridin-5-yl)-3,4-dihydroquinolin-2(1H)-one | 0.341 mmol, 0.1 g | CN1C(CCC2=CC(=CC=C12)C1=C2CCCNC2=CN=C1)=O | C18H19N3O
reactant | tert-butyl 2-oxoethylcarbamate | 0.511 mmol, 0.081 g | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | acetic acid | 0.341 mmol, 0.02 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.682 mmol, 0.144 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | {2-[5-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-3,4-dihydro-2H-[1,7]naphthyridin-1-yl]-ethyl}-carbamic acid tert-butyl ester | 0.036 g, 24% | C(C)(C)(C)OC(NCCN1CCCC2=C(C=NC=C12)C=1C=C2CCC(N(C2=CC1)C)=O)=O | C25H32N4O3
